US07151105B2
Step 1: (4-Bromo-2-methyl-phenyl)-methanol
4-Bromo-2-methyl-benzoic acid (9.88 g, 45.9 mmol) was dissolved in THF (100 ml), and the solution was cooled to 0° C. To this solution, a solution of 1M BH3THF (91.89 ml, 91.89 mmol) was added at 0° C., and the solution was vigorously stirred for 3 hours at room temperature. The reaction mixture was diluted with cold water (20 mL), washed with a saturated solution of NaHCO3, then extracted with ether 3 times (300 mL). The combined organic ether was washed with brine (250 mL), dried over MgSO4, and concentrated in Vacuo. The residue was purified via flash column chromatography (25% to 55% EtOAc in Hexane) to give white solid (8.24 g, 90% yield). 1H NMR (400 MHz, CDCl3) δ: 2.32 (2 H, s) 4.64 (1 H, d, J=5.81 Hz) 7.20–7.26 (2 H, m) 7.30–7.36 (1 H, m).

reactant | 4-Bromo-2-methyl-benzoic acid | 45.9 mmol, 9.88 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | BH3THF | 91.89 mmol, 1M, 91.89 ml | B.C1CCOC1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (4-Bromo-2-methyl-phenyl)-methanol | 8.24 g, 90% yield | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
